US07691882B2
3-(3-(6-Phenylsulfanyl-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a tetrahydrofuran (5 mL) solution of (6-phenylsulfanyl-pyridin-3-yl)-acetohydroximoyl chloride (149 mg, 0.54 mmol) described in Manufacturing Example 97-1-4 and 3-ethynyl-pyridin-2-ylamine (15 mg, 0.13 mmol) described in Manufacturing Example 1-2-3 was added triethylamine (80 μL, 0.57 mmol), which was stirred for 4 hours at 50° C. under nitrogen atmosphere. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate:methanol=10:1) and then further purified by silica gel column chromatography (ethyl acetate:methanol=10:1) to obtain the title compound (11 mg, 23%).

reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | (6-phenylsulfanyl-pyridin-3-yl)-acetohydroximoyl chloride | 0.54 mmol, 149 mg | C1(=CC=CC=C1)SC1=CC=C(C=N1)CC(=NO)Cl | C13H11ClN2OS
reactant | 3-ethynyl-pyridin-2-ylamine | 0.13 mmol, 15 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | triethylamine | 0.57 mmol, 80 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(6-Phenylsulfanyl-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamine | 11 mg, 23% | C1(=CC=CC=C1)SC1=CC=C(C=N1)CC1=NOC(=C1)C=1C(=NC=CC1)N | C20H16N4OS
